US07732456B2
4-[(5-Chloro-2-pyridinyl)methoxy]-1-(4-{[(2R)-2-pyrrolidinyl]methoxy}phenyl)-1H-pyridin-2-one
Example 121 was repeated except that 4-[(5-chloro-2-pyridinyl)methoxy]-1-(4-{[(3R)-1-tert-butoxycarbonyl)-3-pyrrolidinyl]oxy}phenyl)-1H-pyridin-2-one was replaced with 4-[(5-chloro-2-pyridinyl)methoxy]-1-(4-{[(2R)-1-(tert-butoxycarbonyl)-2-pyrrolidinyl]methyloxy}phenyl)-1H-pyridin-2-one to provide the title compound.

reactant | 1H-pyridin-2-one | N1C(C=CC=C1)=O | C5H5NO
reactant | 4-[(5-chloro-2-pyridinyl)methoxy]-1-(4-{[(2R)-1-(tert-butoxycarbonyl)-2-pyrrolidinyl]methyloxy}phenyl)-1H-pyridin-2-one | ClC=1C=CC(=NC1)COC1=CC(N(C=C1)C1=CC=C(C=C1)OC[C@@H]1N(CCC1)C(=O)OC(C)(C)C)=O | C27H30ClN3O5
product | 4-[(5-Chloro-2-pyridinyl)methoxy]-1-(4-{[(2R)-2-pyrrolidinyl]methoxy}phenyl)-1H-pyridin-2-one | ClC=1C=CC(=NC1)COC1=CC(N(C=C1)C1=CC=C(C=C1)OC[C@@H]1NCCC1)=O | C22H22ClN3O3
